US08378104B2
Step A: 4,5-dibromonicotinic Acid
A cooled (−70° C.) solution of 5-bromonicotinic acid (12.6 g, 62.5 mmol) in THF under nitrogen was treated with 2 M lithium diisopropylamide (72 mL, 144 mmol) dropwise over 1 h. The solution stirred for 2.5 h at −55° C. The mixture was then cooled to −70° C. and treated with 1,2-dibromotetrachloroethane (25 g, 77.2 mmol) in portions over 30 min. After 1 h, the reaction mixture was allowed to warm to −20° C. over 2 h and then water (75 mL) was added slowly. The organic layer was then evaporated in vacuo and the aqueous residue was diluted with water (250 mL), then washed with ethyl acetate. The aqueous layer was then acidified to pH 3 by addition of concentrated hydrochloric acid. The precipitated solid was collected by filtration and dried at 60° C. in vacuo to afford 10 g (57%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.98 (s, 1H), 8.75 (s, 1H), 3.2 (br. s, 1H).

reactant | 5-bromonicotinic acid | 62.5 mmol, 12.6 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | lithium diisopropylamide | 144 mmol, 2 M, 72 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,2-dibromotetrachloroethane | 77.2 mmol, 25 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
reactant | water | 75 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 4,5-dibromonicotinic Acid | 10 g, 57% | BrC1=C(C=NC=C1C(=O)O)Br | C6H3Br2NO2
